US05374720
The same procedure as in Example 1-1 was carried out by using p-nitrobenzyl (1R,5S,6S)-2-diphenoxyphosphoryloxy-6-[(R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate (153 mg, 0.27 mmol) and (2S,4S)-2-(2-azetidinon-4-yl)-4-mercapto-N-(p-nitrobenzyloxycarbonyl)pyrrolidine diastereomer A (90 mg, 0.26 mmol, compound of Reference Example 4) to obtain p-nitrobenzyl (1R,5S,6S)-2-[(2S,4S)-2-(2-azetidinon-4-yl)-N-(p-nitrobenzyloxycarbonyl)pyrrolidin-4-ylthio]-6-[(R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate diastereomer A (128 mg, yield: 70.9%).

reactant | p-nitrobenzyl (1R,5S,6S)-2-diphenoxyphosphoryloxy-6-[(R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate | 0.27 mmol, 153 mg | O(C1=CC=CC=C1)P(=O)(OC1=CC=CC=C1)OC=1[C@@H]([C@@H]2N(C1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C([C@@H]2[C@@H](C)O)=O)C | C29H27N2O10P
reactant | (2S,4S)-2-(2-azetidinon-4-yl)-4-mercapto-N-(p-nitrobenzyloxycarbonyl)pyrrolidine | N1C(CC1[C@H]1N(C[C@H](C1)S)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O | C15H17N3O5S
product | p-nitrobenzyl (1R,5S,6S)-2-[(2S,4S)-2-(2-azetidinon-4-yl)-N-(p-nitrobenzyloxycarbonyl)pyrrolidin-4-ylthio]-6-[(R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate | yield: 70.9% | N1C(CC1[C@H]1N(C[C@H](C1)SC=1[C@@H]([C@H]2N(C1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C([C@@H]2[C@@H](C)O)=O)C)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])=O | C32H33N5O11S
